US04558134
Dimethylformamide (29.2 g) was slowly added to 122.7 g of POCl3 in a reaction flask. After the addition was complete, the mixture was heated to 80° C. while 3,4-dichlorophenoxyacetaldehyde diethyl acetal (55.8 g) was added, and the resulting mixture was then heated for an additional two hours at about 80°-85° C. The reaction mixture was cooled to room temperature and poured into about 400 g of potassium carbonate in an ice-water mixture and then extracted with methylene chloride. The methylene chloride extract was then dried and concentrated to a dark oil which solidified upon dilution with ethyl acetate. 22.1 g of the desired, 2-(3,4-dichlorophenoxy)-3-dimethylamino-propenal was obtained and subsequently identified by NMR spectroscopy.

reactant | POCl3 | 122.7 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 3,4-dichlorophenoxyacetaldehyde diethyl acetal | 55.8 g | C(C)OC(COC1=CC(=C(C=C1)Cl)Cl)OCC | C12H16Cl2O3
reactant | potassium carbonate | about 400 g | C([O-])([O-])=O.[K+].[K+]
reactant | Dimethylformamide | 29.2 g | CN(C=O)C | C3H7NO
product | 2-(3,4-dichlorophenoxy)-3-dimethylamino-propenal | ClC=1C=C(OC(C=O)=CN(C)C)C=CC1Cl | C11H11Cl2NO2
